US07674802B2
(R)-2-[4-(1,3-Dioxo-1,3-dihydro-isoindol-2-yl)-phenoxymethyl]-pyrrolidine-1-carboxylic acid tert-butyl ester 1:
To a 25 mL vial which contained a suspension of NaH (60% in mineral oil, 30 mg, 0.75 mmol) in DMF (3 mL) was added 2-(4-Hydroxy-phenyl)-isoindole-1,3-dione (105 mg, 0.5 mmol) at 0° C. The mixture was allowed to warm to rt and stir at rt for 30 min then cooled to 0° C. To this reaction mixture was added (R)-2-(toluene-4-sulfonyloxymethyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (173 mg, 0.5 mmol) at 0° C. The resulting mixture was allowed to warm to rt and stir at rt for 30 min and then was heated to 90° C. and stirred at 90° C. for 16 h. After cooled to it, the mixture was poured into 150 mL ice-water solution and then was extracted with EtOAc (3×50 mL). The combined organic layers were washed with water (3×50 mL), brine (30 mL) and dried over Na2SO4. After concentrated in vacuo, the residue was purified by a column chromatography on silica gel to yield the title product, (120 mg, 55%)

reactant | NaH | 0.75 mmol, 30 mg | [H-].[Na+]
reactant | 2-(4-Hydroxy-phenyl)-isoindole-1,3-dione | 0.5 mmol, 105 mg | OC1=CC=C(C=C1)N1C(C2=CC=CC=C2C1=O)=O | C14H9NO3
reactant | (R)-2-(toluene-4-sulfonyloxymethyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.5 mmol, 173 mg | C(C)(C)(C)OC(=O)N1[C@H](CCC1)COS(=O)(=O)C1=CC=C(C=C1)C | C17H25NO5S
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | (R)-2-[4-(1,3-Dioxo-1,3-dihydro-isoindol-2-yl)-phenoxymethyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 120 mg, 55% | C(C)(C)(C)OC(=O)N1[C@H](CCC1)COC1=CC=C(C=C1)N1C(C2=CC=CC=C2C1=O)=O | C24H26N2O5
